US07582646B2
To a solution of 4-aminophenol (1.64 g, 15 mmol) in DMF (40 mL) was added potassium tert-butoxide (1.69 g, 15 mmol) and the resulting mixture was stirred at room temp for 15 min. 4-chloro-2-(trifluoromethyl)pyrimidine in DMF (10 mL) was then added and the resulting mixture was stirred at room temp for 16 h. Water was then added and the mixture was extracted with ethyl acetate, dried over anhydrous sodium sulfate and concentrated in vacuo. The crude was purified using Biotage flash 40M (2:1, Hexane, Ethyl acetate) to afford 4-{[2-(trifluoromethyl)pyrimidin-4-yl]oxy}aniline (2.2 g, 63%). 1H NMR (DMSO-d6) δ 8.78 (d, 1H), 7.16 (d, 1H), 6.90 (d, 2H), 6.60 (d, 2H), 5.17 (brs, 2H); MS ES 256 (M+H)+, calcd 256, RT=2.42 min.

reactant | 4-aminophenol | 15 mmol, 1.64 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | potassium tert-butoxide | 15 mmol, 1.69 g | CC(C)([O-])C.[K+]
reactant | 4-chloro-2-(trifluoromethyl)pyrimidine | ClC1=NC(=NC=C1)C(F)(F)F | C5H2ClF3N2
reactant | Water | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-{[2-(trifluoromethyl)pyrimidin-4-yl]oxy}aniline | 2.2 g, 63% | FC(C1=NC=CC(=N1)OC1=CC=C(N)C=C1)(F)F | C11H8F3N3O
